US06605601B2
Step 4: 3-[4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-acrylic acid methyl ester
4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde (900 mg, 2.73 mmol) was dissolved in 25 mL of THF and methyl (triphenylphosphoranylidene)acetate (1.83 g, 2 eq) was added. The resulting reaction mixture was stirred under reflux for 18 h. It was then cooled to rt and purified by preparative HPLC using a mixture of aqueous acetonitrile to afford 300 mg of the desired product.

reactant | 4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]octane-1-carbaldehyde | 2.73 mmol, 900 mg | O=C1NC(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)C=O)=O | C17H22N4O3
reactant | methyl (triphenylphosphoranylidene)acetate | 1.83 g, 2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-[4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-acrylic acid methyl ester | 300 mg | COC(C=CC12CCC(CC1)(CC2)C2=NC=1N(C(NC(C1N2)=O)=O)CCC)=O | C20H26N4O4
